* File: XOR.pex.netlist.pex
* Created: Tue May 31 20:50:42 2016
* Program "Calibre xRC"
* Version "v2012.2_26.20"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%1 60 65 77 81
c0 104 0 0.00225369f
c1 95 0 0.108675f
c2 83 0 0.0354145f
c3 81 0 0.293444f
c4 77 0 0.169897f
c5 70 0 0.096422f
c6 68 0 0.146201f
c7 63 0 0.147697f
c8 62 0 0.0149057f
c9 59 0 0.092828f
c10 57 0 0.0322792f
c11 56 0 0.041046f
c12 52 0 0.0593222f
c13 48 0 0.0402202f
c14 45 0 0.0609909f
c15 44 0 0.0367741f
c16 41 0 0.0536552f
c17 36 0 0.0643549f
c18 30 0 0.0156832f
c19 29 0 0.0610455f
c20 27 0 0.0268534f
c21 25 0 0.0280245f
c22 20 0 0.227322f
c23 15 0 0.12155f
c24 14 0 0.0553262f
r25 79 83 7.73958
r26 79 81 96.5
r27 75 83 7.73958
r28 75 77 48.75
r29 72 95 6.6276
r30 70 83 1.29764
r31 70 72 1.03404
r32 68 87 0.0610784
r33 67 68 16.3327
r34 65 67 4.608
r35 62 63 8.16635
r36 60 62 2.304
r37 59 95 4
r38 57 104 0.0492898
r39 56 59 4
r40 56 57 4
r41 52 108 0.0493118
r42 48 106 0.0492898
r43 45 87 4
r44 44 48 4
r45 44 45 4
r46 41 109 0.0313529
r47 40 41 4
r48 36 40 0.0233495
r49 36 37 4
r50 29 109 0.0262087
r51 29 108 0.5252
r52 27 52 0.000378641
r53 26 30 0.0190699
r54 26 27 0.0584369
r55 25 30 0.0190699
r56 25 106 0.1209
r57 20 30 0.0155047
r58 20 104 1.196
r59 15 37 0.0252427
r60 14 15 4
r61 12 63 0.0252129
r62 12 14 0.0502353
.ends

.subckt PM_XOR%noxref_2 20 21 25 26
c0 29 0 0.236388f
c1 24 0 0.226062f
c2 17 0 0.112851f
c3 12 0 0.0763616f
c4 3 0 0.030282f
c5 2 0 0.0841172f
r6 37 38 4
r7 32 33 4
r8 29 38 0.0610784
r9 28 29 16.3327
r10 26 28 4.608
r11 25 28 4.572
r12 24 33 0.0610784
r13 23 24 16.3327
r14 21 23 4.608
r15 20 23 4.572
r16 17 37 0.0732843
r17 12 32 0.0739216
r18 5 17 0.0504706
r19 4 12 0.0498333
r20 3 4 0.0421401
r21 2 5 0.0421401
r22 2 3 0.2288
.ends

.subckt PM_XOR%Y 19 20 24 25 38
c0 38 0 0.206899f
c1 23 0 0.282006f
c2 16 0 0.355308f
c3 11 0 0.162862f
c4 10 0 0.200709f
c5 3 0 0.25919f
r6 27 38 16.3327
r7 25 27 4.608
r8 24 27 4.572
r9 22 23 8.16635
r10 20 22 2.304
r11 19 22 2.286
r12 16 23 4
r13 11 29 0.0351765
r14 10 11 4
r15 7 38 0.299783
r16 6 10 0.0365098
r17 6 7 0.031094
r18 3 16 0.0551695
r19 2 29 0.0262087
r20 2 3 0.4901
.ends

.subckt PM_XOR%noxref_4 16 21
c0 33 0 0.297972f
c1 28 0 0.163249f
c2 27 0 0.157168f
c3 24 0 0.310774f
c4 14 0 0.105865f
c5 12 0 0.0664885f
c6 8 0 0.136238f
r7 27 28 4
r8 24 33 4
r9 23 24 8.16635
r10 21 23 2.304
r11 18 28 8.16635
r12 16 18 2.286
r13 15 33 0.0879412
r14 14 15 4
r15 13 27 0.0879412
r16 12 13 4
r17 9 12 0.0392568
r18 8 14 0.0392719
r19 8 9 0.6318
.ends

.subckt PM_XOR%A 31 35 41 45 72
c0 72 0 0.156065f
c1 61 0 0.131229f
c2 60 0 0.144003f
c3 57 0 0.0787428f
c4 56 0 0.0447236f
c5 54 0 0.0654351f
c6 51 0 0.0583249f
c7 49 0 0.0945016f
c8 45 0 0.131096f
c9 41 0 0.245484f
c10 37 0 0.0394023f
c11 35 0 0.152461f
c12 31 0 0.28952f
c13 27 0 0.0637392f
c14 25 0 0.0768241f
c15 24 0 0.0466145f
c16 21 0 0.00926036f
c17 20 0 0.209179f
c18 18 0 0.108248f
c19 17 0 0.0445586f
c20 12 0 0.0733459f
c21 9 0 0.114772f
r22 60 63 0.0289124
r23 60 61 4
r24 54 56 8.07022
r25 54 61 6.6276
r26 49 51 8.07022
r27 49 50 6.6276
r28 45 56 38
r29 41 52 83.25
r30 37 52 6.49109
r31 37 54 9.19149
r32 35 51 35
r33 31 47 86.25
r34 27 47 6.57073
r35 27 49 9.19149
r36 25 63 0.0388725
r37 24 25 4
r38 22 24 0.0426961
r39 20 22 0.0421401
r40 20 21 0.8515
r41 18 57 0.0363235
r42 17 18 4
r43 15 21 0.0421401
r44 15 17 0.0452451
r45 12 57 0.0181587
r46 11 12 4
r47 9 50 0.00622222
r48 9 72 0.0738889
r49 9 11 0.00672549
.ends

.subckt PM_XOR%6 22 27 36 40
c0 51 0 0.105775f
c1 47 0 0.130339f
c2 45 0 0.223343f
c3 44 0 0.161595f
c4 43 0 0.0960413f
c5 36 0 0.28851f
c6 32 0 0.0545999f
c7 30 0 0.195563f
c8 25 0 0.309361f
c9 21 0 0.158157f
c10 18 0 0.113182f
c11 17 0 0.150575f
c12 15 0 0.0462806f
c13 14 0 0.0750358f
c14 9 0 0.12683f
c15 8 0 0.0496269f
c16 5 0 0.0682007f
r17 51 53 0.0492898
r18 51 52 4
r19 43 45 8.07022
r20 43 44 6.6276
r21 40 45 34.75
r22 36 41 86.5
r23 32 41 6.34887
r24 32 43 9.19149
r25 30 52 0.0610784
r26 29 30 16.3327
r27 27 29 4.572
r28 25 47 4
r29 24 25 8.16635
r30 22 24 2.286
r31 20 44 0.0754444
r32 18 54 0.0288039
r33 17 18 4
r34 15 21 0.0563591
r35 15 17 0.0715098
r36 14 20 0.0446868
r37 14 21 0.30587
r38 8 47 0.0662745
r39 8 9 0.0450671
r40 6 54 0.0262087
r41 6 9 0.2509
r42 5 54 0.0262087
r43 5 53 0.195
.ends

.subckt PM_XOR%noxref_7 2 3
c0 5 0 0.217987f
c1 2 0 0.0155033f
r2 3 5 2.304
r3 2 5 2.286
.ends

.subckt PM_XOR%B 4 8 17 21 26
c0 24 0 0.074928f
c1 23 0 0.0734225f
c2 21 0 0.131583f
c3 17 0 0.311026f
c4 14 0 0.442342f
c5 10 0 0.189009f
c6 8 0 0.125889f
c7 4 0 0.30343f
r8 19 24 7.73958
r9 19 21 35.75
r10 15 24 7.73958
r11 15 17 109.5
r12 14 26 0.154156
r13 13 14 3.3138
r14 11 23 1.29764
r15 11 13 17.0617
r16 10 24 1.29764
r17 10 13 7.44894
r18 6 23 7.73958
r19 6 8 35.75
r20 2 23 7.73958
r21 2 4 109.5
.ends

.subckt PM_XOR%GND 8 14 21 26 31 32
c0 35 0 0.0979438f
c1 29 0 0.102616f
c2 24 0 0.0756373f
c3 14 0 0.00234531f
c4 13 0 0.05162f
c5 10 0 0.22879f
c6 7 0 0.00304183f
c7 2 0 0.0637516f
r8 34 35 16.3327
r9 32 34 4.608
r10 31 34 4.572
r11 28 29 16.3327
r12 26 28 4.608
r13 23 24 16.3327
r14 21 23 4.572
r15 14 17 1.48479
r16 12 35 0.173783
r17 12 13 0.0210391
r18 10 17 0.0307674
r19 10 11 0.0171457
r20 9 29 0.173783
r21 9 11 0.0210391
r22 7 24 0.173783
r23 7 8 0.0323695
r24 6 17 0.381093
r25 6 8 0.0116042
r26 3 11 0.0171457
r27 2 13 0.0171457
r28 2 3 0.200233
.ends

.subckt PM_XOR%VDD 4 14 15 16 20 21
c0 24 0 0.215746f
c1 20 0 0.00922558f
c2 19 0 0.198123f
c3 15 0 0.0191242f
c4 14 0 0.0190477f
c5 13 0 0.113822f
c6 12 0 0.281111f
c7 10 0 0.00555163f
c8 2 0 0.090295f
r9 23 24 8.16635
r10 21 23 2.304
r11 20 23 2.286
r12 18 19 8.16635
r13 16 18 2.304
r14 15 18 2.286
r15 14 27 1.48479
r16 12 27 0.268442
r17 12 13 0.0171457
r18 11 24 0.176522
r19 11 13 0.0210391
r20 9 27 0.268767
r21 9 10 0.0171457
r22 8 19 0.176522
r23 8 10 0.0210391
r24 2 10 0.0171457
r25 2 4 0.0773256
.ends

